US05559141
c) 4-[3-(4-cyanophenyl)-3-phenylpropyl]-1H-imidazole
1-benzyl-5-[3-(4-cyanophenyl)-3-phenyl-2-propenyl]-1H-imidazole hydrochloride is hydrogenated in ethanol using 10% Pd/C as a catalyst.

reactant | 1-benzyl-5-[3-(4-cyanophenyl)-3-phenyl-2-propenyl]-1H-imidazole hydrochloride | Cl.C(C1=CC=CC=C1)N1C=NC=C1CC=C(C1=CC=CC=C1)C1=CC=C(C=C1)C#N
catalyst | ethanol | C(C)O | C2H6O
product | 4-[3-(4-cyanophenyl)-3-phenylpropyl]-1H-imidazole | C(#N)C1=CC=C(C=C1)C(CCC=1N=CNC1)C1=CC=CC=C1 | C19H17N3
